// Generated for: spectre
// Generated on: Aug 28 12:01:45 2025
// Design library name: 22301
// Design cell name: INVERTER
// Design view name: schematic
simulator lang=spectre
global 0
include "/home/install/FOUNDRY/analog/90nm/libs.oa22/gpdk090/../../models/spectre/gpdk090.scs" section=NN

// Library name: 22301
// Cell name: INVERTER
// View name: schematic
NM0 (OUT net1 0 0) gpdk090_nmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
PM0 (OUT net1 net2 net2) gpdk090_pmos1v w=(120n) l=100n as=69.6f ad=69.6f \
        ps=1.16u pd=1.16u m=(1)*(1) simM=(1)*(1)
V1 (net1 0) vsource dc=1.8 type=dc
V0 (net2 0) vsource dc=1.8 type=dc
simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc dev=V1 param=dc start=0 stop=1.8 oppoint=rawfile maxiters=150 \
    maxsteps=10000 annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
